US07163947B2
A suspension of palladium (II) acetate (0.067 g, 0.30 mmol) and tri-o-tolylphosphine (0.271 g, 0.891 mmol) in 10 mL of MeCN was placed in a 50 mL heavy wall glass pressure flask and placed under an atmosphere of nitrogen. The mixture was stirred until homogeneous. The mixture was treated with triethylamine (1.58 mL, 11.9 mmol), 3-bromopyridine (0.430 mL, 4.46 mmol) and N-isopropyl-2-propyl-7-vinyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.92 g, 3.0 mmol). Nitrogen was bubbled through the mixture for 1 min and then the flask was sealed. The reaction was heated to 120° C. After 15 h, the homogenous orange solution was cooled to ambient temperature and concentrated under reduced pressure. The residue was partitioned between 75 mL of CHCl3 and 25 mL of 10% Na2CO3 solution. The phases were separated and the organic portion was washed with H2O (25 mL). The combined aqueous portions were back-extracted with CHCl3 (25 mL). The combined organic extracts were washed with brine (30 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield an orange solid. The solid was purified by chromatography (SiO2, 20–50% (80:18:2 CHCl3:MeOH:NH4OH) in CHCl3) to yield N1-isopropyl-2-propyl-7-(2-pyridin-3-yl-vinyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.97 g) as a light yellow solid.

reactant | tri-o-tolylphosphine | 0.891 mmol, 0.271 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 11.9 mmol, 1.58 mL | C(C)N(CC)CC | C6H15N
reactant | 3-bromopyridine | 4.46 mmol, 0.430 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | N-isopropyl-2-propyl-7-vinyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 3.0 mmol, 0.92 g | C(C)(C)NN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=C)N)CCC | C18H23N5
solvent | MeCN | 10 mL | CC#N | C2H3N
catalyst | palladium (II) acetate | 0.30 mmol, 0.067 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N1-isopropyl-2-propyl-7-(2-pyridin-3-yl-vinyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.97 g | C(C)(C)NN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=CC=2C=NC=CC2)N)CCC | C23H26N6
